US04935431
Ethyl 3-methoxy-7-(4-hydroxy-2-methylphenylamino)thieno-[3,2-b]pyridine-6-carboxylate hydrochloride
Ethyl 3-methoxy-7-chlorothieno[3,2-b]pyridine-6-carboxylate (1.5 g, 0.0055 mol) and 4-hydroxy-2-methylaniline (1.36 g, 0.011 mol) in anisole (30 ml) were heated under reflux in an inert atmosphere for thirty hours. The solid obtained on cooling was collected by filtration and recrystallised from ethanol to give a brown crystalline solid, 1.09 g. Recrystallisation from ethanol after filtration through charcoal gave the title compound, 0.63 g, m.p. 286°-288°.

reactant | Ethyl 3-methoxy-7-chlorothieno[3,2-b]pyridine-6-carboxylate | 0.0055 mol, 1.5 g | COC1=CSC=2C1=NC=C(C2Cl)C(=O)OCC | C11H10ClNO3S
reactant | 4-hydroxy-2-methylaniline | 0.011 mol, 1.36 g | OC1=CC(=C(N)C=C1)C | C7H9NO
solvent | anisole | 30 ml | C1(=CC=CC=C1)OC | C7H8O
product | Ethyl 3-methoxy-7-(4-hydroxy-2-methylphenylamino)thieno-[3,2-b]pyridine-6-carboxylate hydrochloride | Cl.COC1=CSC=2C1=NC=C(C2NC2=C(C=C(C=C2)O)C)C(=O)OCC | InChI=1S/C18H18N2O4S.ClH/c1-4-24-18(22)12-8-19-16-14(23-3)9-25-17(16)15(12)20-13-6-5-11(21)7-10(13)2;/h5-9,21H,4H2,1-3H3,(H,19,20);1H
